US07754747B2
A mixture of 6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthol (306 mg, 0.792 mmol), prepare in step 5 of Example 2, methyl bromoacetate (75 μL, 0.792 mmol) and potassium carbonate (556 mg, 4.02 mmol) in 35 mL of DMF was stirred under nitrogen at room temperature for 19 h (overnight). The reaction was partitioned between ethyl acetate and water. The organic layer was separated and extracted three times with water. The combined extracts were dried (MgSO4), filtered and the solvent removed under reduced pressure to give methyl ({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate (364 mg, 96%) as a yellow solid, mp 149-151° C. Elemental Analysis for C28H25NO5 Calc'd: C, 73.83; H, 5.53; N, 3.07. Found: C, 73.55; H, 5.72; N, 3.08.

reactant | 6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthol | 0.792 mmol, 306 mg | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)O)C=CC=C2 | C25H21NO3
reactant | methyl bromoacetate | 0.792 mmol, 75 μL | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 4.02 mmol, 556 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
product | methyl ({6-[2-(2-butyl-1-benzofuran-3-yl)-1,3-oxazol-5-yl]-2-naphthyl}oxy)acetate | 364 mg, 96% | C(CCC)C=1OC2=C(C1C=1OC(=CN1)C=1C=C3C=CC(=CC3=CC1)OCC(=O)OC)C=CC=C2 | C28H25NO5
